US04420424
(A) Z-D-Glu(OBut)-Val-Tyr(But)-OMe
4.04 g (12 mmoles) of Z-D-Glu(OBut)-OH are subjected to a condensation reaction with 4.64 g (12 mmoles) of H-Val-Tyr(But)-OMe.HCl in 25 ml of dimethylformamide analogously to Example 38 A. Yield 6.72 g. The substance is purified further by chromatography on silica gel. The eluting agent is a mixture of methylene chloride and acetone in proportions such as 9:1. Yield 6.63 g (70%), melting point 100°-104°, [α]D27 =-8.4° (c=1, methanol).

reactant | Z-D-Glu(OBut)-OH | 12 mmoles, 4.04 g | N([C@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H23NO6
reactant | H-Val-Tyr(But)-OMe.HCl | 12 mmoles, 4.64 g | N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC.Cl
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Z-D-Glu(OBut)-Val-Tyr(But)-OMe | N([C@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C36H51N3O9
